US03996276
A solution of 5.00 g of 1,4,7-triazacyclodecane and 5.70 g of hexamethylphosphorous triamide in 50 ml. of toluene is refluxed for 48 hours. The toluene is removed under reduced pressure, and the residue is distilled through a short-path column, to give 5.31 g (89%) of 1,4,7-triaza-11-phosphatricyclo[5.3.1.04,11 ]undecane as a clear, colorless liquid having a boiling point of 96°-98° C at 0.70 mm. The product solidifies on standing at room temperature.

reactant | 1,4,7-triazacyclodecane | 5.00 g | N1CCNCCNCCC1 | C7H17N3
reactant | hexamethylphosphorous triamide | 5.70 g | CN(P(N(C)C)N(C)C)C | C6H18N3P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,4,7-triaza-11-phosphatricyclo[5.3.1.04,11 ]undecane | 5.31 g, 89% | N12CCN3CCN(CCC1)P23 | C7H14N3P
